*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/2.20e+00[uF]/6.3[V]
* Murata P/N :GRM152R60J225ME05
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM152R60J225ME05 Port1 Port2
C01 Port1 N01 1.83e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 9.44e-11
R03 N02 N03 1.02e-02
C04 N03 N04 1.07e-04
R04 N03 N04 3.35e+01
C05 N04 N05 1.12e-04
R05 N04 N05 3.72e+00
C06 N05 N06 1.25e-04
R06 N05 N06 4.09e-01
C07 N06 N07 1.10e-04
R07 N06 N07 4.67e-02
C08 N07 N08 9.78e-05
R08 N07 N08 5.32e-03
L09 N08 N09 8.23e-11
R09 N08 N09 4.98e-02
L10 N09 N10 1.50e-11
R10 N09 N10 5.18e-03
C11 N10 N11 4.84e-07
L11 N10 N11 8.83e-11
R11 N10 N11 4.95e-03
C12 N11 N12 9.32e-10
L12 N11 N12 2.00e-11
R12 N11 N12 7.82e-02
C13 N12 Port2 1.10e-12
L13 N12 Port2 1.05e-10
R13 N12 Port2 2.02e+01
.ENDS GRM152R60J225ME05
