*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/4.70e-01[uF]/6.3[V]
* Murata P/N :GRM152R60J474ME15
* Property : C = 4.70e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM152R60J474ME15 Port1 Port2
C01 Port1 N01 4.16e-07
R01 Port1 N01 1.06e+08
L02 N01 N02 1.91e-10
R03 N02 N03 2.01e-02
C04 N03 N04 1.84e-05
R04 N03 N04 2.16e+02
C05 N04 N05 3.72e-05
R05 N04 N05 1.97e+01
C06 N05 N06 3.69e-05
R06 N05 N06 3.51e+00
C07 N06 N07 3.77e-05
R07 N06 N07 4.22e-01
C08 N07 N08 3.13e-05
R08 N07 N08 5.08e-02
C09 N08 N09 2.72e-05
R09 N08 N09 8.35e-03
L10 N09 N10 3.31e-11
R10 N09 N10 1.91e-01
L11 N10 N11 7.79e-11
R11 N10 N11 6.59e-02
C12 N11 N12 1.23e-07
L12 N11 N12 4.97e-11
R12 N11 N12 1.22e-02
C13 N12 Port2 9.02e-12
L13 N12 Port2 2.93e-11
R13 N12 Port2 4.41e+00
.ENDS GRM152R60J474ME15
