*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+00[uF]/6.3[V]
* Murata P/N :GRM155R60J105ME19
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R60J105ME19 Port1 Port2
C01 Port1 N01 8.02e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.46e-10
R03 N02 N03 9.74e-03
C04 N03 N04 4.59e-05
R04 N03 N04 3.33e+01
C05 N04 N05 4.26e-05
R05 N04 N05 3.75e+00
C06 N05 N06 4.53e-05
R06 N05 N06 3.03e-01
C07 N06 N07 3.33e-05
R07 N06 N07 3.60e-02
C08 N07 N08 3.41e-05
R08 N07 N08 3.92e-03
L09 N08 N09 3.80e-11
R09 N08 N09 2.13e-01
L10 N09 N10 2.15e-11
R10 N09 N10 3.10e-02
L11 N10 N11 1.12e-10
R11 N10 N11 2.91e-02
C12 N11 N12 1.11e-06
L12 N11 N12 4.51e-11
R12 N11 N12 6.40e-03
C13 N12 Port2 4.05e-12
L13 N12 Port2 4.14e-11
R13 N12 Port2 5.63e+00
.ENDS GRM155R60J105ME19
