*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/4.70e+00[uF]/6.3[V]
* Murata P/N :GRM155R60J475ME87
* Property : C = 4.70e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R60J475ME87 Port1 Port2
C01 Port1 N01 3.91e-06
R01 Port1 N01 1.06e+07
L02 N01 N02 9.06e-11
R03 N02 N03 4.65e-03
C04 N03 N04 2.01e-04
R04 N03 N04 5.80e+00
C05 N04 N05 3.04e-04
R05 N04 N05 4.77e-01
C06 N05 N06 3.65e-04
R06 N05 N06 4.53e-02
C07 N06 N07 2.40e-04
R07 N06 N07 5.93e-03
L08 N07 N08 8.71e-11
R08 N07 N08 2.41e+01
L09 N08 N09 3.65e-11
R09 N08 N09 1.83e-01
L10 N09 N10 3.81e-11
R10 N09 N10 3.72e-02
L11 N10 N11 1.82e-10
R11 N10 N11 2.02e-02
C12 N11 Port2 3.96e-06
L12 N11 Port2 8.46e-11
R12 N11 Port2 4.43e-03
.ENDS GRM155R60J475ME87
