*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/2.20e+01[uF]/6.3[V]
* Murata P/N :GRM158R60J226ME01
* Property : C = 2.20e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM158R60J226ME01 Port1 Port2
C01 Port1 N01 1.40e-05
R01 Port1 N01 2.27e+06
L02 N01 N02 1.31e-10
R03 N02 N03 2.64e-03
C04 N03 N04 6.91e-04
R04 N03 N04 2.07e+00
C05 N04 N05 9.17e-04
R05 N04 N05 2.02e-01
C06 N05 N06 1.01e-03
R06 N05 N06 3.16e-02
C07 N06 N07 1.10e-03
R07 N06 N07 4.91e-03
C08 N07 N08 8.72e-04
R08 N07 N08 1.46e-03
L09 N08 N09 2.67e-11
R09 N08 N09 1.03e-01
L10 N09 N10 4.90e-11
R10 N09 N10 1.94e-02
L11 N10 N11 2.46e-10
R11 N10 N11 1.10e-02
C12 N11 N12 3.60e-05
L12 N11 N12 5.76e-11
R12 N11 N12 2.11e-03
C13 N12 N13 2.32e-05
L13 N12 N13 4.28e-11
R13 N12 N13 1.93e-03
C14 N13 Port2 2.24e-11
L14 N13 Port2 1.04e-11
R14 N13 Port2 2.66e+00
.ENDS GRM158R60J226ME01
