*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/3.30e-02[uF]/10[V]
* Murata P/N :GRM15XR61A333KA86
* Property : C = 3.30e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR61A333KA86 Port1 Port2
C01 Port1 N01 3.29e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.60e-10
R03 N02 N03 4.18e-02
C04 N03 N04 3.49e-06
R04 N03 N04 1.08e+03
C05 N04 N05 7.39e-06
R05 N04 N05 1.14e+02
C06 N05 N06 4.42e-06
R06 N05 N06 2.99e+01
C07 N06 N07 4.09e-06
R07 N06 N07 3.94e+00
C08 N07 N08 4.07e-06
R08 N07 N08 5.48e-01
C09 N08 N09 2.93e-06
R09 N08 N09 1.25e-01
C10 N09 N10 2.07e-06
R10 N09 N10 2.44e-02
L11 N10 N11 1.94e-11
R11 N10 N11 3.73e-01
L12 N11 N12 5.59e-11
R12 N11 N12 1.61e-01
C13 N12 N13 1.22e-08
L13 N12 N13 4.65e-11
R13 N12 N13 4.22e-02
C14 N13 Port2 2.04e-12
L14 N13 Port2 7.88e-11
R14 N13 Port2 1.79e+01
.ENDS GRM15XR61A333KA86
