*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.50e-02[uF]/10[V]
* Murata P/N :GRM15XR61A153MA86
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR61A153MA86 Port1 Port2
C01 Port1 N01 1.55e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.82e-10
R03 N02 N03 7.46e-02
C04 N03 N04 1.61e-06
R04 N03 N04 2.30e+03
C05 N04 N05 2.44e-06
R05 N04 N05 2.70e+02
C06 N05 N06 2.11e-06
R06 N05 N06 5.03e+01
C07 N06 N07 1.75e-06
R07 N06 N07 9.15e+00
C08 N07 N08 1.81e-06
R08 N07 N08 1.10e+00
C09 N08 N09 2.32e-06
R09 N08 N09 2.73e-01
C10 N09 N10 1.22e-06
R10 N09 N10 1.44e-01
C11 N10 N11 8.24e-07
R11 N10 N11 3.98e-02
L12 N11 N12 2.76e-11
R12 N11 N12 1.87e-01
L13 N12 N13 6.04e-11
R13 N12 N13 9.60e-02
C14 N13 Port2 2.97e-12
L14 N13 Port2 1.11e-10
R14 N13 Port2 1.73e+01
.ENDS GRM15XR61A153MA86
